US07737295B2
A solution of [3-bromo-5-(trifluoromethyl)phenyl]methanol (409 mg, 1.61 mmol) in CH2Cl2 (25 mL) was cooled to 0° C. and then Dess-Martin periodinane (1.02 g, 2.41 mmol) was added. The reaction was stirred at 0° C. for 30 minutes and then warmed to room temperature. After stirring at room temperature for thirty minutes, the reaction was poured into 1N NaOH (25 mL). The mixture was extracted with EtOAc (100 mL), and the organic extracts were washed with 1N NaOH (25 mL), then brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 25% EtOAc/hexanes afforded 3-bromo-5-(trifluoromethyl)benzaldehyde. Rf=0.60 (25% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 10.02 (s, 1H), 8.20 (s, 1H), 8.07 (s, 1H), 8.02 (s, 1H).

reactant | [3-bromo-5-(trifluoromethyl)phenyl]methanol | 1.61 mmol, 409 mg | BrC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6BrF3O
reactant | Dess-Martin periodinane | 2.41 mmol, 1.02 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-(trifluoromethyl)benzaldehyde | BrC=1C=C(C=O)C=C(C1)C(F)(F)F | C8H4BrF3O
